US08633208B2
3-ethoxy-N-[4-(2-methyl-1H-imidazol-1-yl)phenyl]acrylamide
4-(2-methyl-1H-imidazol-1-yl)aniline (40.7 g, 232 mmol; RN: 74852-81-6, Maybridge, J. Med. Chem., 48(6), 1729-1744; 2005) was dissolved in dry pyridine (290 mL), 3-ethoxyacryloyl chloride (36.1 g, 268 mmol) was then added dropwise at 0°/−10° C. The resulting mixture was stirred at 0° C. for 2 hours and at r.t. overnight. The reaction mixture was quenched with 100 mL of water, and pyridine was distilled i.v., the residue was taken up with water and the pH was adjusted to pH=10, by adding K2CO3, the resulting suspension was extracted with AcOEt and concentrated. The resulting solid was stirred with hexane and filtered to afford the title product (58 g; 92%). C15H17N3O2, MW: 271.32.

reactant | 4-(2-methyl-1H-imidazol-1-yl)aniline | 232 mmol, 40.7 g | CC=1N(C=CN1)C1=CC=C(N)C=C1 | C10H11N3
reactant | 3-ethoxyacryloyl chloride | 268 mmol, 36.1 g | C(C)OC=CC(=O)Cl | C5H7ClO2
solvent | pyridine | 290 mL | N1=CC=CC=C1 | C5H5N
product | 3-ethoxy-N-[4-(2-methyl-1H-imidazol-1-yl)phenyl]acrylamide | 58 g, 92% | C(C)OC=CC(=O)NC1=CC=C(C=C1)N1C(=NC=C1)C | C15H17N3O2
